US05705504
To a solution of aniline hydrochloride (3.37 g, 26 mmol) and ethyl benzoylacetate (5 mL, 26 mmol) in MeOH (70 mL) was added NaBH3CN (1.75 g) and the mixture was stirred at room temperature for 18 h. The solvent was removed and the residue partitioned between 0.5N HCl and Et20. The aqueous phase was made basic with 1N NaOH and extracted with CHCl3. The organic phase was dried and concentrated to a residue. Purification by chromatography on silica gel (hexane: EtOAc, 5%) afforded ethyl 3-phenyl-3-(phenylamino)propionate (4.3 g, 62%). This compound was then hydrolized under basic conditions to give the title compound as a white solid.

reactant | aniline hydrochloride | 26 mmol, 3.37 g | Cl.NC1=CC=CC=C1
reactant | ethyl benzoylacetate | 26 mmol, 5 mL | C(C1=CC=CC=C1)(=O)CC(=O)OCC | C11H12O3
reactant | NaBH3CN | 1.75 g | [BH3-]C#N.[Na+]
solvent | MeOH | 70 mL | CO | CH4O
product | ethyl 3-phenyl-3-(phenylamino)propionate | 4.3 g, 62% | C1(=CC=CC=C1)C(CC(=O)OCC)NC1=CC=CC=C1 | C17H19NO2
